US07501406B2
4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide
A cocktail containing 40% trifluoroacetic acid, 1% trifluoromethanesulfonic acid in CH2Cl2 (20 ml) was added to 4-chloro-N-[(R)-1-(2,4-dimethoxy-benzyl)-5,5-difluoro-2-oxo-azepan-3-yl]-benzenesulfonamide (0.5 g, 1.0 mmol). After 30 min the reaction mixture was concentrated and the residue was dissolved in ethyl acetate and washed with water, NaHCO3 solution, 1 M KHSO4 solution, brine, dried (MgSO4.2H2O), filtered, concentrated under reduce pressure and purified over silica gel (CH2Cl2/MeOH 95:5 v/v): white solid 0.74 g (78%);

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 4-chloro-N-[(R)-1-(2,4-dimethoxy-benzyl)-5,5-difluoro-2-oxo-azepan-3-yl]-benzenesulfonamide | 1.0 mmol, 0.5 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1C(N(CCC(C1)(F)F)CC1=C(C=C(C=C1)OC)OC)=O | C21H23ClF2N2O5S
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1C(NCCC(C1)(F)F)=O | C12H13ClF2N2O3S
